US07781591B2
To a solution of 1-[4-bromo-2-furyl)methyl]-4-methylpiperazine (see e.g., J. Med. Chem., 49, 7868, (2006)) (145 mg, 0.56 mmol), and triisopropylborate (132 mg, 0.16 mL, 0.7 mmol) in THF was added dropwise n-BuLi (0.3 ml, 0.76 mmol, 2.5M/hexane) at −78° C. and the reaction mixture was stirred at −78° C. for 3 h and warmed to room temperature in 1 h. A few drops of water were added and the mixture was concentrated in vacuo. To the residue was added 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (100 mg, 0.27 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II)-CH2Cl2 ((dppf)2PdCl2, 12 mg, 0.014 mmol), DME (6 mL) and saturated aqueous Na2CO3 (4 mL) and the resulting mixture was heated at 85° C. for 1.5 h and cooled to room temperature. The mixture was partitioned between dichloromethane and water, and the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography (MeOH/CH2Cl2, 5% to 20%) to provide 68 mg (57%) of 4-[(4-methyl-1H-indol-5-yl)amino]-5-{5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}nicotinonitrile as a light tan solid. HPLC retention time: 4.8 min.(g); Melting point: 129° C. (decom.); and HRMS: 427.22597.

reactant | 4-methylpiperazine | 0.56 mmol, 145 mg | CN1CCNCC1 | C5H12N2
reactant | triisopropylborate | 0.7 mmol, 0.16 mL, 132 mg | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 0.76 mmol, 2.5M, 0.3 ml | [Li]CCCC
reactant | 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 0.27 mmol, 100 mg | IC=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C15H11IN4
reactant | Na2CO3 | 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | water | A few drops | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) CH2Cl2 | 0.014 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | DME | 6 mL | COCCOC | C4H10O2
product | 4-[(4-methyl-1H-indol-5-yl)amino]-5-{5-[(4-methylpiperazin-1-yl)methyl]-3-furyl}nicotinonitrile | 68 mg, 57% | CC1=C2C=CNC2=CC=C1NC1=C(C=NC=C1C#N)C1=COC(=C1)CN1CCN(CC1)C | C25H26N6O
